US09260436B2
A mixture of 2.4 g of 1-bromo-3,3,4,4,4-pentafluorobutan-2-one and 5 ml of DME was added to a mixture of 1.87 g of 2-amino-5-bromo-6-methylpyridine and 10 ml of DME, and the mixture was stirred at room temperature for 3 hours. The precipitated solid was filtered, and washed with 10 ml of DME to obtain 3.95 g of 6-bromo-5-methyl-2-pentafluoroethyl-2,3-dihydroimidazo[1,2-a]pyridin-2-ol hydrobromide.

reactant | 1-bromo-3,3,4,4,4-pentafluorobutan-2-one | 2.4 g | BrCC(C(C(F)(F)F)(F)F)=O | C4H2BrF5O
reactant | 2-amino-5-bromo-6-methylpyridine | 1.87 g | NC1=NC(=C(C=C1)Br)C | C6H7BrN2
solvent | DME | 10 ml | COCCOC | C4H10O2
solvent | DME | 5 ml | COCCOC | C4H10O2
product | 6-bromo-5-methyl-2-pentafluoroethyl-2,3-dihydroimidazo[1,2-a]pyridin-2-ol hydrobromide | 3.95 g | Br.BrC=1C=CC=2N(C1C)CC(N2)(O)C(C(F)(F)F)(F)F | InChI=1S/C10H8BrF5N2O.BrH/c1-5-6(11)2-3-7-17-8(19,4-18(5)7)9(12,13)10(14,15)16;/h2-3,19H,4H2,1H3;1H
